US08314100B2
1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine (Compound 107)
Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 106 to obtain the titled compound (yield, 92%). 1H NMR (300 MHz, CDCl3): δ 3.17 (s, 4H), 3.82 (s, 4H), 3.89 (s, 3H), 4.15 (s, 3H), 6.89-6.97 (m, 3H), 7.06 (m, 1H), 7.45 (m, 1H), 7.75 (s, 2H).

reactant | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 92% | ClC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)OC | C21H22ClN5O3
